* C:\Users\toshe\OneDrive\Documents\University\3rd Year\Semester 2\EDesign\E344\Assignment3\E344_A3_temp.asc
V1 Vtempsensor 0 PWL file=TempSensorPWL.csv
V4 N002 0 9
R_Sense 9V N002 0.010
XU1 9V 0 5V LM7805
R1 5V N001 100k
R2 N001 0 100k
XU2 N001 V_GND 5V 0 V_GND TL081
XU3 N004 N003 5V 0 Vtempoutadc TLC2272
R3 V_GND N003 100k
R4 Vtempoutadc N003 3Meg
R5 N004 Vtempsensor 200k
C1 N004 0 300n
R6 N004 5V 420k
C2 9V 0 0.33µ
C3 5V 0 0.1µ
.tran 0 {transtop} 0 {timestep}
.include A3tempcfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify input files while developing.\nFor submission: \n  * Use only 9V supply \n  * Connect "Vtempsensor" to your \n               conditioning circuit's input\n  * Connect "VtempoutADC" to your output signal.\n  * Only one label name per net.
* Config file:
* Analysis setup:
* Battery
* Sensor-\nemulating \nstimulus
* =============================\nREPLACE WITH YOUR DETAILS\nE. Stewdent.,  00024601\nVtempsensor for 0degC = 500 mV\ndelta Vtempsensor = 10 mV/degC\n=============================
* ==========================================================================================\nTemperature conditioning circuit (only copy and paste the given op-amps, or use those given in the working directory only)\n==========================================================================================
* =============================\nVoltage regulation (complete this)\n=============================
.incl TLC2272.LIB
.incl TL081.LIB
.incl LM78XX_RS.lib
* Connect to your conditioning circuit's output
* =============================\nIncludes (don't fiddle with this!!)\n=============================
* =======================================\nYour circuit goes here, these are just placeholders.\n=======================================
.lib LM78XX_RS.lib
.backanno
.end
